US08309562B2
[2-(2-Dimethylamino-ethoxy)-quinazolin-4-yl]-(4-methoxy-phenyl)-methyl-amine
To a solution of (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine hydrochloride (120 mg, 0.36 mmol) in 2 mL of N,N-dimethylethanolamine were added potassium tert-butoxide (121 mg, 1.07 mmol) and 18-crown-6 (95 mg, 0.36 mmol). The resulting solution was heated at 100° C. overnight with stirring. The mixture was concentrated and purified by silica gel column chromatography to give the title compound (66 mg, 52%). 1H NMR (CDCl3, 400 MHz) δ 7.59 (d, 1H, J=8.4 Hz), 7.45 (t, 1H, J=6.8 Hz), 7.10 (d, 2H, J=8.8 Hz), 6.92 (m, 3H), 6.83 (t, 1H, J=6.8 Hz), 4.60 (t, 2H, J=6.4 Hz), 3.83 (s, 3H), 3.57 (s, 3H), 2.84 (t, 2H, J=6.4 Hz), 2.38 (s, 6H); ESI-MS m/z 353 (M+H)+.

reactant | (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine hydrochloride | 0.36 mmol, 120 mg | Cl.ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC
reactant | potassium tert-butoxide | 1.07 mmol, 121 mg | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.36 mmol, 95 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | N,N-dimethylethanolamine | 2 mL | CN(CCO)C | C4H11NO
product | [2-(2-Dimethylamino-ethoxy)-quinazolin-4-yl]-(4-methoxy-phenyl)-methyl-amine | 66 mg, 52% | CN(CCOC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC)C | C20H24N4O2
